Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.000762122619999
[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.12972462814
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],1.0802645888
[C:4]([H:5])([H:6])[H:7].[O:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.91928042847
[O:1][C:2]([O:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2](=[O:3])[H:4],0.37882069418
[H:1][C:2]#[C:3][C:4][O:6][C:7]([H:8])[O:9][H:10].[H:5]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[O:9][H:10],-4.196080568959999
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.4954900949
[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12]>>[C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12].[O:1],4.2065784205800005
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14],-2.05681851741
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:9]([H:10])[H:11].[H:8],1.52818928074
[H:1][O:2][C:3][C:4]([O:5])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2][C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.47864876809
[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.96823056499
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.54931167835
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([H:4])[O:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],-1.21276938142
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.33446519574
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.29292044778
[O:1]=[C:2]=[C:3][O:4][C:5][H:6]>>[O:1][C:2][C:3].[O:4]=[C:5][H:6],0.0534302010004999
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.558551931499999
[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11],-0.7803564015000001
[H:10].[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.2738211036
[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])[H:9]>>[H:9].[O:1]=[C:2]([H:3])[O:4][C:5][C:6]#[C:7][H:8],4.32424480178
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.5126978061
[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5][H:6],6.459326406340001
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.93683502063
[C:1]#[C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3](=[C:4]=[O:5])[C:7]([H:8])([H:9])[H:10].[H:6],1.03824107797
[H:11].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9][H:10]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])[H:11],-4.17141427917
[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-7.59063200077
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7],3.7316275668
